US08975397B2
Step h) crystalline (1,1-dioxo-1λ6-thiomorpholin-4-yl)-{6-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-methanone monohydrate in polymorphic form B (Form B)
6-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid (23.0 g, 70.1 mmol) and 1,1-carbonyldiimidazole (15.3 g, 94.6 mol, 1.35 eq.) were dissolved in THF (120 mL) and the resulting solution was stirred for one hour at room temperature. This solution was then added to a suspension of thiomorpholine-1,1-dioxide HCl (16.9 g, 98.5 mmol), DMAP (400 mg, 3.27 mmol) and triethylamine (9.78 g, 96.7 mmol) in THF (120 mL). The resulting mixture was heated to reflux temperature and subsequently stirred at this temperature for 50 hours. The mixture was cooled to room temperature and then treated within one hour with water (300 mL). From the resulting suspension THF was distilled off under reduced pressure and with a jacket temperature of 60° C. and continuously replaced by ethanol (426 g) at constant volume. The suspension was cooled to room temperature and stirred for 2 hours. The crystals were filtered off, washed with a mixture of ethanol (100 mL) and water (100 mL) and subsequently dried at 55° C./<25 mbar until constant weight to afford 28.9 g (92%) of Form B as a colorless solid with purity of 99.7% (area) as measured by HPLC.

reactant | 6-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid | 70.1 mmol, 23.0 g | FC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C17H13FN2O4
reactant | thiomorpholine-1,1-dioxide HCl | 98.5 mmol, 16.9 g | Cl.N1CCS(CC1)(=O)=O
reactant | triethylamine | 96.7 mmol, 9.78 g | C(C)N(CC)CC | C6H15N
reactant | water | 300 mL | O | H2O
solvent | THF | 120 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 3.27 mmol, 400 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | (1,1-dioxo-1λ6-thiomorpholin-4-yl)-{6-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-methanone monohydrate | O.O=S1(CCN(CC1)C(=O)C=1C=NC(=CC1)OCC=1C(=NOC1C)C1=CC=C(C=C1)F)=O | InChI=1S/C21H20FN3O5S.H2O/c1-14-18(20(24-30-14)15-2-5-17(22)6-3-15)13-29-19-7-4-16(12-23-19)21(26)25-8-10-31(27,28)11-9-25;/h2-7,12H,8-11,13H2,1H3;1H2
